US06969710B2
4-Chloro-3-nitrobenzenesulphonyl chloride (0.992 g, 3.87 mmol) was added to a solution of naphthalen-1-ylamine (0.665 g, 4.64 mmol) and pyridine (3.1 mL, 38.7 mmol) dissolved in DCM (5 mL). The solution was stirred at room temperature for 2 days and the volatiles were evaporated. The crude mixture was dissolved in EtOAc and the organic phase was washed with 1 N HCl, dried with MgSO4, filtered and concentrated to give 1.1 g of naphthalen-1-yl-3-nitro-4-chloro-benzenesulphonamide. Naphthalen-1-yl-3-nitro-4-chloro-benzenesulphonamide was dissolved in CH3CN (10 mL) and piperazine (0.683 g, 7.93 mmol) was added. The mixture was stirred at 65° C. for 16 hours. The mixture was concentrated and the crude product was purified by flash chromatography on silica using DCM→DCM/MeOH (10%)+aqueous NH3 (0.4 as eluent to give 0.531 g of the free base which was converted to its HCl-salt.

reactant | 4-Chloro-3-nitrobenzenesulphonyl chloride | 3.87 mmol, 0.992 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | naphthalen-1-ylamine | 4.64 mmol, 0.665 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | pyridine | 38.7 mmol, 3.1 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | naphthalen-1-yl-3-nitro-4-chloro-benzenesulphonamide | 1.1 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC(=C1[N+](=O)[O-])Cl)S(=O)(=O)N | C16H11ClN2O4S
